US09388140B2
To a stirred suspension of sodium hydride (665 mg, 16.64 mmol) in DMF (90 mL) at rt was added 4-nitro-1H-benzimidazole (2714 mg, 16.64 mmol) in several portions. After stirring for 1 h, 4-fluorobenzonitrile (1350 mg, 11.146 mmol) was added and the mixture was stirred for 15 h at 130° C. After cooling, water was added, the precipitate was filtered off, washed with water and dried to yield 4-(4-nitro-benzoimidazol-1-yl)-benzonitrile (2.47 g, 47.76%).

reactant | sodium hydride | 16.64 mmol, 665 mg | [H-].[Na+]
reactant | 4-nitro-1H-benzimidazole | 16.64 mmol, 2714 mg | [N+](=O)([O-])C1=CC=CC=2NC=NC21 | C7H5N3O2
reactant | 4-fluorobenzonitrile | 11.146 mmol, 1350 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | water | O | H2O
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 4-(4-nitro-benzoimidazol-1-yl)-benzonitrile | 2.47 g, 47.76% | [N+](=O)([O-])C1=CC=CC=2N(C=NC21)C2=CC=C(C#N)C=C2 | C14H8N4O2
